US04362657
Preparation of p-Methyl Phenylethyl Cyclohexyl Ether
246 grams of cyclohexane is added to a stirred slurry of p-methyl phenyl beta ethanol (408 grams) and 25 grams of Amberlyst® 15 cation exchange resin maintained at 110° C., over a 2 hour period. The reaction mass is then aged at 110° C. for an additional 3 hours whereupon it is cooled and filtered. The resulting solution is then heated at reflux with 80 grams of 30% aqueous sodium hydroxide. The reaction mass is then cooled and the resulting organic layer is washed with 1 liter of water. The organic layer is separated from the reaction mass and distilled through a 11/2"×12" Goodlow packed column to afford the following distillation fractions:

reactant | p-methyl phenyl beta ethanol | 408 grams | CC1=CC=C(C=C1)CCO | C9H12O
solvent | cyclohexane | 246 grams | C1CCCCC1 | C6H12
product | p-Methyl Phenylethyl Cyclohexyl Ether | C1(CCCCC1)OCCC1=CC=C(C=C1)C | C15H22O
